US06265575B1
Part B. 2-(4-Methoxyphenyl)benzofuran-3-yl 4-[2-(1-Pyrrolidinyl)ethoxy]phenyl Ketone
The title compound was prepared in 79% yield from 2-(4-methoxyphenyl)benzofuran (Part A) and 4-[2-(1-pyrrolidinyl)ethoxy]benzoic acid hydrochloride by essentially following the procedure detailed in Example 1, Part C.

reactant | 2-(4-methoxyphenyl)benzofuran | COC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C15H12O2
reactant | 4-[2-(1-pyrrolidinyl)ethoxy]benzoic acid hydrochloride | Cl.N1(CCCC1)CCOC1=CC=C(C(=O)O)C=C1
product | 2-(4-Methoxyphenyl)benzofuran-3-yl 4-[2-(1-Pyrrolidinyl)ethoxy]phenyl Ketone | 79% yield | N1(CCCC1)CCOC1=CC=C(C=C1)C(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C=C2)OC | C28H27NO4
